US07758932B2
Synthesis of 4-benzyloxy-2-chloro-benzoic acid 4-(4-pentyl-phenoxycarbonyl)-phenyl ester
In 50 mL of methylene chloride, 1.84 g (7.0 mmol) of 4-benzyloxy-2-chloro-benzoic acid, 1.90 g (6.7 mmol) of 4-hydroxy-benzoic acid 4-pentyl-phenyl ester, and 0.082 g (0.67 mmol) of 4-dimethylaminopyridine were dissolved. Then, 1.45 g (7.0 mmol) of dicyclohexylcarbodiimide was added while stirring the solution under argon. After being stirred for 8 hours under argon, the solution was filtered and the filtered liquid was concentrated. The residue was purified by silica-gel column chromatography. As a result, 3.3 g of a white solid was obtained.

reactant | 4-benzyloxy-2-chloro-benzoic acid | 7.0 mmol, 1.84 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)Cl | C14H11ClO3
reactant | 4-hydroxy-benzoic acid 4-pentyl-phenyl ester | 6.7 mmol, 1.90 g | C(CCCC)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)O)=O | C18H20O3
reactant | dicyclohexylcarbodiimide | 7.0 mmol, 1.45 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.67 mmol, 0.082 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-benzyloxy-2-chloro-benzoic acid 4-(4-pentyl-phenoxycarbonyl)-phenyl ester | 3.3 g | C(CCCC)C1=CC=C(OC(=O)C2=CC=C(C=C2)OC(C2=C(C=C(C=C2)OCC2=CC=CC=C2)Cl)=O)C=C1 | C32H29ClO5
